US06127386
186c. 3-(2-(R)-Azetidinylmethoxy)-6-chloro-5-phenylpyridine hydrochloride
To a solution of 3-(2-(R)-azetidinylmethoxy)-6-chloro-5-phenyl-pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 143-145° C.; 1H NMR (D2O) δ 2.70 (q, 2H, J=8.5 Hz), 4.02-4.22 (m, 2H), 4.46 (d, 2H, J=4.5 Hz), 4.97 (m, 1H), 7.57 (s, 5H), 7.60 (d, 1H, J=3.0 Hz), 8.19 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 275 (M+H)+. Anal. Calcd for C15H15ClN2O.1.4 HCl: C, 55.30; H, 5.07; N, 8.60. Found: C, 55.19; H, 5.25; N, 8.52. [α]25D +9.4 (c 0.8, MeOH).

reactant | 3-(2-(R)-azetidinylmethoxy)-6-chloro-5-phenyl-pyridine | N1[C@H](CC1)COC=1C=NC(=C(C1)C1=CC=CC=C1)Cl | C15H15ClN2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 3-(2-(R)-Azetidinylmethoxy)-6-chloro-5-phenylpyridine hydrochloride | Cl.N1[C@H](CC1)COC=1C=NC(=C(C1)C1=CC=CC=C1)Cl | InChI=1S/C15H15ClN2O.ClH/c16-15-14(11-4-2-1-3-5-11)8-13(9-18-15)19-10-12-6-7-17-12;/h1-5,8-9,12,17H,6-7,10H2;1H/t12-;/m1./s1
